US05099010
5'-O-Trityl-2'-deoxyur-idine (II)
A mixture of 2'-deoxyuridine (100 g, 0.44 mol) and triphenylmethyl choride (147 g, 0.53 mol) in 250 mL of pyridine was heated at 100° C. for 30 minutes. One-third of the cooled solution was added at a slow flow rate to a mixture of ice water (2:3) in a commercial blender blending for 3-5 minutes after adding the solution. The resulting white precipitate was filtered and washed twice, stirring in 2 L of water. Recrystallization was accomplished by refluxing the product in a benzene-acetone solution (1:1) for 15 minutes, yielding 128 g (62%). The compound softened at 76° C., began to melt at 152-155° C., and darkened in color at 155-159° C. Rf =0.71 (CHCl3 --EtOH, 4:1).

reactant | 2'-deoxyuridine | 0.44 mol, 100 g | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C=C1 | C9H12N2O5
reactant | triphenylmethyl choride | 0.53 mol, 147 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
reactant | EtOH | CCO | C2H6O
solvent | pyridine | 250 mL | N1=CC=CC=C1 | C5H5N
product | 5'-O-Trityl-2'-deoxyur-idine | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C=C1)O | C28H26N2O5
